US07842685B2
To 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine (70 mg, 0.194 mmol) and (S)-(−)-2-acetoxysuccinic anhydride (34 mg, 213 μmol) was added benzene (1.9 mL) and acetic acid (55 μl, 0.968 mmol) before it was stirred at 80° C. for 1 h. The reaction mixture was concentrated before the regioisomers were separated via SFC (Column: Chiralpak IC, Mobile Phase: liquid CO2/40% MeOH) to give (2S)-2-acetoxy-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoic acid. MS (ESI) m/z: Calculated: 519.1; Observed: 520.1 (M++H).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine | 0.194 mmol, 70 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N | C21H16FN3S
reactant | (S)-(−)-2-acetoxysuccinic anhydride | 213 μmol, 34 mg | C(C)(=O)O[C@@H]1C(=O)OC(C1)=O | C6H6O5
reactant | acetic acid | 0.968 mmol, 55 μl | C(C)(=O)O | C2H4O2
solvent | benzene | 1.9 mL | C1=CC=CC=C1 | C6H6
product | (2S)-2-acetoxy-4-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoic acid | C(C)(=O)O[C@H](C(=O)O)CC(=O)NC1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F | C27H22FN3O5S
